US07022677B1
N-(3-Amino-2(S)-hydroxypropyl)phthalimide hydrochloride, 10a
To EtOH solution (80 ml) of N-(3-azido-2(R)-hydroxypropyl)phthalimide 1.96 g (7.69 mmol), 10% Pd—C (200 mg) and concentrated hydrochloric acid solution 1.4 ml were added sequentially. To the reaction mixture, hydrogen was introduced at 2 kgf/cm2 atm. and then stirring was continued at room temperature overnight. After removal of catalyst by filtration, catalyst was washed with EtOH/DMF (1:1) solution (60 ml) and then combined filtrate was evaporated to dryness. Addition of EtOH to the residue gave crystal of desired product as a hydrogen chloride salt. Crystal was collected by filtration and dried under reduced pressure at 40° C. to afford 1.28 g of the product. The NMR spectra were consistent with the desired title intermediate.

reactant | N-(3-azido-2(R)-hydroxypropyl)phthalimide | 7.69 mmol, 1.96 g | N(=[N+]=[N-])C[C@@H](CN1C(C=2C(C1=O)=CC=CC2)=O)O | C11H10N4O3
reactant | hydrochloric acid | 1.4 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd—C | 200 mg | [Pd] | Pd
solvent | EtOH | 80 ml | CCO | C2H6O
product | N-(3-Amino-2(S)-hydroxypropyl)phthalimide hydrochloride | Cl.NC[C@@H](CN1C(C=2C(C1=O)=CC=CC2)=O)O | InChI=1S/C11H12N2O3.ClH/c12-5-7(14)6-13-10(15)8-3-1-2-4-9(8)11(13)16;/h1-4,7,14H,5-6,12H2;1H/t7-;/m0./s1
